US05142081
2,2-bis-trimethylsiloxymethyl-1,3-bis-trimethylsiloxypropane
1 mole of pentaerythritol, 6 moles of trimethylchlorosilane and 0.004 moles of triethylbenzyl ammonium chloride were reacted at the reflux temperature (54°-86° C.) as in Example 1 and then worked up by distillation.

reactant | pentaerythritol | 1 mole | OCC(CO)(CO)CO | C5H12O4
reactant | trimethylchlorosilane | 6 moles | C[Si](Cl)(C)C | C3H9ClSi
catalyst | triethylbenzyl ammonium chloride | 0.004 moles | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2,2-bis-trimethylsiloxymethyl-1,3-bis-trimethylsiloxypropane | C[Si](OCC(CO[Si](C)(C)C)(CO[Si](C)(C)C)CO[Si](C)(C)C)(C)C | C17H44O4Si4
